US04107307
6-tert-Butyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A 6.15 gm. portion of 3-(2-tert-butyl-4-imidazolylmethylene)carbazic acid ethyl ester in 40 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 186°-188° C.

reactant | 3-(2-tert-butyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C(C)(C)C)=O | C11H18N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-tert-Butyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C(C)(C)(C)C1=NC=C2N1C(NN=C2)=O | C9H12N4O
